US06534546B1
Synthesis of N-(3-fluoro-4-methylphenyl)phthalimide
A mixture of 3-fluoro-4-methylaniline (12.5 g), phthalic anhydride (17.8 g), triethylamine (27.9 ml) and chloroform (100 ml) was heated under reflux for 6 days and concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed successively with 2 N HCl and a saturated aqueous sodium chloride solution; the organic layer was then dried with anhydrous sodium sulfate and concentrated under reduced pressure. Subsequently, chloroform was added to the resulting residue and the insoluble matter was filtered off whereas the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, chloroform methanol=98:2) to give 18.7 g of the titled compound (yield, 73%).

reactant | 3-fluoro-4-methylaniline | 12.5 g | FC=1C=C(N)C=CC1C | C7H8FN
reactant | phthalic anhydride | 17.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 27.9 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-fluoro-4-methylphenyl)phthalimide | 18.7 g, 73% | FC=1C=C(C=CC1C)N1C(C=2C(C1=O)=CC=CC2)=O | C15H10FNO2
